US04839271
A mixture of 120 ml toluene, 80 ml hexane, 24.2 acetylpyridine, 24.2 g of diphenylhydrazine hydrochloride, and 30 g of anhydrous sodium acetate was stirred and heated at reflux in a flask equipped with a water separator until no more water was being collected (about 2 hours). The reaction mixture was filtered, and the filtrate was distilled under aspirator vacuum at 60° C. The residue was stirred with 100 ml of methanol with cooling to keep temperature between -10 and -20° C. The resulting solid was collected, washed with 100 ml of cold methanol, and was dried in vacuo to give 43 g of acetylpyridine diphenylhydrazone, mp 84° C. νmax in methanol is 358 nm; absorptivity is 6.7×103.

reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetylpyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | diphenylhydrazine hydrochloride | 24.2 g | Cl.C1(=CC=CC=C1)NNC1=CC=CC=C1
reactant | sodium acetate | 30 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | hexane | 80 ml | CCCCCC | C6H14
product | acetylpyridine diphenylhydrazone | 43 g | C1(=CC=CC=C1)N(N=C(C)C1=NC=CC=C1)C1=CC=CC=C1 | C19H17N3
